US08809336B2
To a solution of 4-aminomethyl-4-tert-butoxycarbonylamino-piperidine-1-carboxylic acid tert-butyl ester (12.2 mg, 0.037 mmol) and triethylamine (16 μL, 0.12 mmol) in dry dichloromethane (4 mL) was added 4-chlorobenzoyl chloride (5 μL, 0.037 mmol). After stirring for 18 hours at room temperature, the reaction mixture was partionated between dichloromethane (2 mL) and water (1 mL) with 10% aqueous sodium hydroxide (0.1 mL). The two layers were separated and the aqueous phase was further extracted with dichloromethane (2 mL). The combined organic layers were dried (Mg2SO4), filtered and concentrated. Preparative TLC, eluting with 10% methanol-dichloromethane, gave 4-tert-butoxycarbonylamino-4-[(4-chloro-benzoylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester (6 mg, 0.013 mmol, 35%). LC-MS (LCT2) m/z 490 [M+Na+], Rt 8.20 min.

reactant | 4-aminomethyl-4-tert-butoxycarbonylamino-piperidine-1-carboxylic acid tert-butyl ester | 0.037 mmol, 12.2 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(NC(=O)OC(C)(C)C)CN | C16H31N3O4
reactant | triethylamine | 0.12 mmol, 16 μL | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzoyl chloride | 0.037 mmol, 5 μL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | sodium hydroxide | 0.1 mL | [OH-].[Na+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | water | 1 mL | O | H2O
product | 4-tert-butoxycarbonylamino-4-[(4-chloro-benzoylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.013 mmol, 6 mg, 35% | C(C)(C)(C)OC(=O)N1CCC(CC1)(CNC(C1=CC=C(C=C1)Cl)=O)NC(=O)OC(C)(C)C | C23H34ClN3O5
